US07030063B1
Step b) Methyl 8-difluoromethoxy-5-quinolinecarboxylate
1.0 g (5.0 mmol) of methyl 8-hydroxy-5-quinolinecarboxylate was dissolved in 20 ml of dimethylformamide, 0.76 g (5.5 mmol) of potassium carbonate was added and 14 g of chlorodifluoromethane were introduced at 40° C. over a period of 2 hours. Solid components were then filtered off, the solvent was removed and the residue was washed with water and dried. This gave 0.75 g of a brown powder;

reactant | methyl 8-hydroxy-5-quinolinecarboxylate | 5.0 mmol, 1.0 g | OC1=CC=C(C=2C=CC=NC12)C(=O)OC | C11H9NO3
reactant | potassium carbonate | 5.5 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorodifluoromethane | 14 g | ClC(F)F | CHClF2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 8-difluoromethoxy-5-quinolinecarboxylate | FC(OC1=CC=C(C=2C=CC=NC12)C(=O)OC)F | C12H9F2NO3
